US06967197B2
To a solution of 4-(5-oxazolyl)phenylboronic acid pinacol cyclic ester obtained in Preparation 9-2) were added N-(2-tetrahydropyranyloxy)-2-[(S)-4-benzoyl-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (1.70 g), tetrakis(triphenylphosphine)palladium(0) (103 mg) and 2M aqueous sodium carbonate solution (5 ml) and the mixture was stirred at 80° C. for 4 hours. After evaporation of solvent, ethyl acetate and water were added and the insolubles were filtered off. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of chloroform and methanol (100:1 to 200:3) to give N-(2-tetrahydropyranyloxy)-2-[(S)-4-benzoyl-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide as a pale yellow amorphous powder (1.28 g).

reactant | N-(2-tetrahydropyranyloxy)-2-[(S)-4-benzoyl-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 1.70 g | O1C(CCCC1)ONC(C[C@@]1(CCN(CCS1(=O)=O)C(C1=CC=CC=C1)=O)C=1SC(=CC1)Br)=O | C23H27BrN2O6S2
reactant | sodium carbonate | 2M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 103 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-tetrahydropyranyloxy)-2-[(S)-4-benzoyl-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 1.28 g | O1C(CCCC1)ONC(C[C@@]1(CCN(CCS1(=O)=O)C(C1=CC=CC=C1)=O)C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)=O | C32H33N3O7S2
